Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Influenza Virus Vaccines
 
Attending: ___.
 
Chief Complaint:
leg pain with walking
 
Major Surgical or Invasive Procedure:
L3-L5 laminectomy , repair of CSF leak ___

 
History of Present Illness:
___ is a pleasant gentleman who presented with prolonged 
bilateral lower extremity radiculopathy and neurogenic 
claudication, which did not respond to conservative treatment.  
Due to this and severity of the symptoms and severity of the 
stenosis, she decided to undergo the spinal surgery.Mr. ___ is 
an otherwise healthy ___ presents to with a 3-month 
history of atraumatic left posterior leg numbness/tingling. The 
patient's exam demonstrates he is neurologically intact with no 
long tract signs. With ambulation he does endorse significant 
left leg numbness. MRI was reviewed and demonstrate degenerative 
disease with loss of disc height in addition to significant 
central stenosis of L4-5.
 
Past Medical History:
NUMBNESS ON LEFT LEG    
BPH 
Appendectomy approximately ___ years ago
Lipoma removal approximately ___ years ago  
 
Social History:
Tobacco use:        Never smoker                                
Alcohol use:        Denies      
Lives with wife, retired   
 
Physical ___:
Last 24h: No acute events overnight.  +BM yesterday

PE: 
VS ___ ___ Temp: 98.0 PO BP: 110/50 L Lying HR: 62 RR: 20
O2 sat: 98% O2 delivery: Ra 

NAD, A&Ox4
nl resp effort
RRR
dressing c/d/i
  
Sensory:
___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

 
Pertinent Results:
___ 09:24AM BLOOD WBC-7.5 RBC-3.88* Hgb-12.3* Hct-36.2* 
MCV-93 MCH-31.7 MCHC-34.0 RDW-12.5 RDWSD-42.8 Plt ___
___ 05:55AM BLOOD WBC-8.1 RBC-3.88* Hgb-12.3* Hct-36.7* 
MCV-95 MCH-31.7 MCHC-33.5 RDW-12.3 RDWSD-42.7 Plt ___
___ 06:26AM BLOOD WBC-11.5* RBC-4.03* Hgb-12.9* Hct-38.2* 
MCV-95 MCH-32.0 MCHC-33.8 RDW-12.8 RDWSD-44.1 Plt ___
___ 04:14AM BLOOD WBC-13.8* RBC-4.38* Hgb-13.8 Hct-41.3 
MCV-94 MCH-31.5 MCHC-33.4 RDW-12.5 RDWSD-43.6 Plt ___
___ 09:24AM BLOOD Plt ___
___ 05:55AM BLOOD Plt ___
___ 06:26AM BLOOD Plt ___
___ 11:54AM BLOOD ___ PTT-25.6 ___
___ 04:14AM BLOOD Plt ___
___ 05:55AM BLOOD Glucose-100 UreaN-14 Creat-0.9 Na-136 
K-3.7 Cl-103 HCO3-26 AnGap-7*
___ 06:26AM BLOOD Glucose-95 UreaN-13 Creat-0.8 Na-139 
K-3.8 Cl-106 HCO3-21* AnGap-12
___ 04:14AM BLOOD Glucose-118* UreaN-16 Creat-0.9 Na-135 
K-4.3 Cl-102 HCO3-23 AnGap-10
___ 05:55AM BLOOD Calcium-8.2* Phos-3.1
___ 06:26AM BLOOD Calcium-8.2* Phos-2.5* Mg-2.0
___ 04:14AM BLOOD Calcium-8.5 Phos-3.8 Mg-1.8
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
complicated by a durotomy and lumbar drain placement.  The 
patient was transferred to the PACU in a stable condition. He 
remained on bedrest until his lumbar drain was removed. 
___ were used for postoperative DVT 
prophylaxis.Intravenous antibiotics were continued until lumbar 
drain was removed per standard protocol.Initial postop pain was 
controlled with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed when he was able to mobilize. 
Physical therapy and Occupational therapy were consulted for 
mobilization OOB to ambulate and ADL's.Hospital course was 
otherwise unremarkable.On the day of discharge the patient was 
afebrile with stable vital signs, comfortable on oral pain 
control and tolerating a regular diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
may take over the counter  
2.  Docusate Sodium 100 mg PO BID 
please take while taking narcotic pain medication 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0 
4.  Finasteride 5 mg PO DAILY  
5.  Pantoprazole 40 mg PO Q24H  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.  Lumbar spinal stenosis with neurogenic claudication.
2.  Lumbar spinal stenosis, L3 to L5.
3.  L4-L5 degenerative spondylolisthesis.
4.  Degenerative lumbar scoliosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without moving around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet:Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You may have been given a brace.If you 
have been given a brace, this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or lying in 
bed.

•                Wound Care: Please keep the incision covered 
with a dry dressing on until your follow up appointment. Do not 
soak the incision in a bath or pool.If the incision starts 
draining at anytime after surgery,do not get the incision 
wet.Cover it with a sterile dressing and call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:            

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

                At the 2-week visit we will check your incision, 
take baseline X-rays and answer any questions.We may at that 
time start physical therapy.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Please keep the incision covered with a dry dressing on until 
your follow up appointment.Do not soak the incision in a bath or 
pool. If the incision starts draining at anytime after surgery, 
do not get the incision wet. Cover it with a sterile dressing. 
Call the office. If you have a sudden swelling of the incision 
or develop worsening headaches, please call the ___. 

 
Followup Instructions:
___